Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C1c2ccccc2C(=O)[N:1]1[CH2:2][c:3]1[cH:4][c:5]2[c:6]([cH:7][cH:8]1)[S:9][c:10]1[n:11][cH:12][cH:13][n:14][c:15]1[N:16]2[CH2:17][O:18][CH3:19]>>[NH2:1][CH2:2][c:3]1[cH:4][c:5]2[c:6]([cH:7][cH:8]1)[S:9][c:10]1[n:11][cH:12][cH:13][n:14][c:15]1[N:16]2[CH2:17][O:18][CH3:19],[O:201]=[C:102]1[c:202]2cccc[c:204]2[C:101](=[O:203])[N:1]1[CH2:2][c:3]1[cH:4][c:5]2[c:6]([cH:7][cH:8]1)[S:9][c:10]1[n:11][cH:12][cH:13][n:14][c:15]1[N:16]2[CH2:17][O:18][CH3:19].[NH2:301][NH2:302]>>[NH2:1][CH2:2][c:3]1[cH:4][c:5]2[c:6]([cH:7][cH:8]1)[S:9][c:10]1[n:11][cH:12][cH:13][n:14][c:15]1[N:16]2[CH2:17][O:18][CH3:19],Ing_Manske,"[(301, 102), ([102, 201], 201), (201, [201, 102]), ([102, 1], 1), (1, 301.1), ([301.1, 301], 301), (302, 101), ([101, 203], 203), (1, 302.1), ([302.1, 302], 302), (203, [203, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][CH2:12][O:13][Si:14]([CH3:15])([CH3:16])[C:17]([CH3:18])([CH3:19])[CH3:20])=[O:21].[CH3:22][CH:23]1[CH2:24][CH2:25][CH:26]([CH:27]([CH3:28])[CH3:29])[CH:30]([OH:31])[CH2:32]1>>[C:1]([C@@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][CH2:12][O:13][Si:14]([CH3:15])([CH3:16])[C:17]([CH3:18])([CH3:19])[CH3:20])(=[O:21])[O:31][C@H:30]1[C@H:26]([CH:27]([CH3:28])[CH3:29])[CH2:25][CH2:24][C@@H:23]([CH3:22])[CH2:32]1,[OH:101][C:1]([C@@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][CH2:12][O:13][Si:14]([CH3:15])([CH3:16])[C:17]([CH3:18])([CH3:19])[CH3:20])=[O:21].[CH3:22][CH:23]1[CH2:24][CH2:25][CH:26]([CH:27]([CH3:28])[CH3:29])[CH:30]([OH:31])[CH2:32]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][CH2:12][O:13][Si:14]([CH3:15])([CH3:16])[C:17]([CH3:18])([CH3:19])[CH3:20])(=[O:21])[O:31][C@H:30]1[C@H:26]([CH:27]([CH3:28])[CH3:29])[CH2:25][CH2:24][C@@H:23]([CH3:22])[CH2:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (31, 1), ([1, 21], 21), (303, 31.1), ([31.1, 31], 31), (21, [21, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23]1.[NH2:24][c:25]1[n:26][n:27][n:28][nH:29]1>>[C:1](=[O:2])([CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23]1)[NH:24][c:25]1[n:26][n:27][n:28][nH:29]1,[OH:101][C:1](=[O:2])[CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23]1.[NH2:24][c:25]1[n:26][n:27][n:28][nH:29]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23]1)[NH:24][c:25]1[n:26][n:27][n:28][nH:29]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 2], 2), (303, 24.1), ([24.1, 24], 24), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH2:1].[CH3:2][O:3][c:4]1[cH:5][cH:6][c:7]2[c:8]([cH:9]1)[CH2:10][NH:11][CH2:12][CH:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][N:11]1[CH2:10][c:8]2[c:7]([cH:6][cH:5][c:4]([O:3][CH3:2])[cH:9]2)[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:12]1,[CH3:2][O:3][c:4]1[cH:5][cH:6][c:7]2[c:8]([cH:9]1)[CH2:10][NH:11][CH2:12][CH:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[O:101]=[CH2:1].[H+:301].[BH3-:302]C#N.[Na+]>>[CH3:1][N:11]1[CH2:10][c:8]2[c:7]([cH:6][cH:5][c:4]([O:3][CH3:2])[cH:9]2)[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:12]1,reductive_amination,"[(11, 1), ([1, 101], 301), (101, 11.1), ([11.1, 11], 11), (11, [11, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 11], 11)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
